US04906285
(2) Preparation of 2-(4-chloro-6-methoxypyrimidin-2-yl)oxy-6-(4,6-dimethoxypyrimidin-2-yl)oxybenzoic acid
Trimethylsilylethyl 2-(4-chloro-6-methoxypyrimidin-2-yl)oxy-6-(4,6-dimethoxypyrimidin-2-yl)oxybenzoate (4.0 g) was dissolved in 30 ml of DMF. To this solution, tetrabutylammonium fluoride trihydrate (5.9 g) was added, and the mixture was stirred at room temperature for 15 minutes. After completion of the reaction, water and a small amount of an aqueous potassium hydrogen sulfate solution were added thereto, and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the crystals thereby obtained were washed with a mixture of hexane and IPE to obtain the above identified compound as white crystals (3.2 g). (Melting point: 150°-152° C.)

reactant | Trimethylsilylethyl 2-(4-chloro-6-methoxypyrimidin-2-yl)oxy-6-(4,6-dimethoxypyrimidin-2-yl)oxybenzoate | 4.0 g | ClC1=NC(=NC(=C1)OC)OC1=C(C(=O)OCC[Si](C)(C)C)C(=CC=C1)OC1=NC(=CC(=N1)OC)OC | C23H27ClN4O7Si
reactant | tetrabutylammonium fluoride trihydrate | 5.9 g | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | O | H2O
reactant | potassium hydrogen sulfate | S(=O)(=O)(O)[O-].[K+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 2-(4-chloro-6-methoxypyrimidin-2-yl)oxy-6-(4,6-dimethoxypyrimidin-2-yl)oxybenzoic acid | ClC1=NC(=NC(=C1)OC)OC1=C(C(=O)O)C(=CC=C1)OC1=NC(=CC(=N1)OC)OC | C18H15ClN4O7
